US07186716B2
3-(1H-Pyrrol-2-yl)-1H-pyrazolo[3,4-b]pyridine
A mixture of (2-chloro-pyridin-3-yl)-(1H-pyrrol-2-yl)-methanone (1 g, 4.8 mmol) and hydrazine hydrate (0.5 mL) in ethanol (15 mL) was heated to reflux for overnight. The reaction was concentrated and the residue was triturated with dichloromethane (to remove any unreacted starting material. The solid was filtered, washed wit water and dried to give 720 mg (81%) of the titled compound as a light yellow solid.

reactant | (2-chloro-pyridin-3-yl)-(1H-pyrrol-2-yl)-methanone | 4.8 mmol, 1 g | ClC1=NC=CC=C1C(=O)C=1NC=CC1 | C10H7ClN2O
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-(1H-Pyrrol-2-yl)-1H-pyrazolo[3,4-b]pyridine | 720 mg, 81% | N1C(=CC=C1)C1=NNC2=NC=CC=C21 | C10H8N4
